US04826834
7-Methoxy-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidine.
A 28% methanol solution of sodium methoxide, 2.52 g, is diluted with 50 ml of dry methanol To this, 2.00 g of 7-chloro-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidine is added at room temperature and stirred for 30 minutes. The solvent is evaporated under reduced pressure and the residue is treated with water and extracted twice with dichloromethane. The combined extract is washed with saline and dried over anhydrous potassium carbonate. Evaporation of the solvent under reduced pressure gives 1.69 g of the desired compound as colorless crystals.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 7-chloro-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidine | 2.00 g | ClC1=CC(=NC=2N1N=CN2)C | C6H5ClN4
solvent | methanol | 50 ml | CO | CH4O
product | 7-Methoxy-5-methyl-[1,2,4]triazolo[1,5-a]pyrimidine | 1.69 g | COC1=CC(=NC=2N1N=CN2)C | C7H8N4O
